US08044062B2
A 3:1 solution of dioxane and water (4 mL) was added to a flask charged with 2-amino-6-bromo-8-ethyl-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one (0.140 g, 0.495 mmol) from above, 4-methylthiophene-3-boronic acid (0.140 g, 0.989 mmol), Pd(PPh3)4 (0.057 mg, 0.050 mmol), and K2CO3 (0.205 g, 1.48 mmol). The flask was flushed with nitrogen and fitted with a reflux condenser and heated to 100° C. After 12 hours the reaction was cooled to room temperature and diluted with ethyl acetate (70 mL) and washed with water. The aqueous phase was separated and washed with an additional amount of ethyl acetate (70 mL). The organic phases were combined and washed with brine, separated and dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified on SiO2 (1:1 methylene chloride:ethyl acetate) to give 2-Amino-8-ethyl-4-methyl-6-(4-methyl-3-thienyl)pyrido[2,3-d]pyrimidin-7(8H)-one (0.081 g, 55% yield) as an off-white solid: 1H NMR (400 MHz, DMSO-d6): δ 7.84 (s, 1H), 7.46 (d, J=4.0 Hz, 1H), 7.19 (m, 3H), 4.32 (q, J=8.0 Hz, 2H), 2.52 (s, 3H), 2.11 (bs, 3H), 1.19 (t, J=8.0 Hz, 3H); MS (EI) for C15H16N4OS: 301.1 (MH+).

reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | 2-amino-6-bromo-8-ethyl-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one | 0.495 mmol, 0.140 g | NC=1N=C(C2=C(N1)N(C(C(=C2)Br)=O)CC)C | C10H11BrN4O
reactant | 4-methylthiophene-3-boronic acid | 0.989 mmol, 0.140 g | CC=1C(=CSC1)B(O)O | C5H7BO2S
reactant | K2CO3 | 1.48 mmol, 0.205 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.050 mmol, 0.057 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 4 mL | O | H2O
product | 2-Amino-8-ethyl-4-methyl-6-(4-methyl-3-thienyl)pyrido[2,3-d]pyrimidin-7(8H)-one | 0.081 g, 55% yield | NC=1N=C(C2=C(N1)N(C(C(=C2)C2=CSC=C2C)=O)CC)C | C15H16N4OS
